US05886044
b) Preparation of N-(2-hydroxy-4-nitrophenyl)-N'-phenyl-thiourea
N-(2-Hydroxy-4-nitrophenyl)-N'-phenyl-2-thiourea was prepared by treating a solution of N-(2-tert-butyldimethysilyloxy-4-nitrophenyl)-N'-phenyl-thiourea (100 mg, 0.248 mmol) in CH3CN (1 mL) with Et3N·HF (100 uL, 0.62 mmol) in acetonitrile for 10 minutes at 23° C. The solution was concentrated and flushed through a silica plug with EtOAc to afford the desired compound as an orange solid (55 mg, 77%).

reactant | N-(2-tert-butyldimethysilyloxy-4-nitrophenyl)-N'-phenyl-thiourea | 0.248 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=S)NC1=CC=CC=C1 | C19H25N3O3SSi
reactant | Et3N·HF | 0.62 mmol, 100 uL | CCN(CC)CC.F
solvent | CH3CN | 1 mL | CC#N | C2H3N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2-hydroxy-4-nitrophenyl)-N'-phenyl-thiourea | 55 mg, 77% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=S)NC1=CC=CC=C1 | C13H11N3O3S
